US09168248B2
Ethyl (2-oxo-2,3-dihydro-1H-imidazol-1-yl)acetate
Ethyl N-{[(2,2-dimethoxyethyl)amino]carbonyl}glycinate To a solution of ethyl isocyanatoacetate (8.84 mL, 77 mmol) in CH2Cl2 (100 mL) at 0° C. was added aminoacetaldehyde dimethyl acetal (8.86 mL, 81 mmol) over a period of 10 min. The mixture was further stirred for 30 min, quenched with water. The CH2Cl2 layer was separated, washed with water, dried (Na2SO4) and concentrated to give the crude title compound as an oil.

reactant | Ethyl N-{[(2,2-dimethoxyethyl)amino]carbonyl}glycinate | COC(CNC(=O)NCC(=O)OCC)OC | C9H18N2O5
reactant | ethyl isocyanatoacetate | 77 mmol, 8.84 mL | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | aminoacetaldehyde dimethyl acetal | 81 mmol, 8.86 mL | COC(CN)OC | C4H11NO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (2-oxo-2,3-dihydro-1H-imidazol-1-yl)acetate | O=C1N(C=CN1)CC(=O)OCC | C7H10N2O3
